US04471118
27.2 g (0.1 mol) of dimethyl α-hydroxy-4-tert.-butylbenzylphosphonate were dissolved in 25 ml of toluene and were added dropwise, from a dropping funnel, into a distillation apparatus which had been preheated to 180° C. and had a small Vigreux column to which a water pump vacuum was applied. The distillate was fractionally distilled in a high vacuum. 13.8 g (81.5% of theory) of 4-tert.-butylbenzaldehyde of boiling point 72° C./0.15 mbars were obtained.

reactant | dimethyl α-hydroxy-4-tert.-butylbenzylphosphonate | 0.1 mol, 27.2 g | OC(C1=CC=C(C=C1)C(C)(C)C)P(OC)(OC)=O | C13H21O4P
reactant | water | O | H2O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 4-tert.-butylbenzaldehyde | 13.8 g, 81.5% | C(C)(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
